US05994356
(34) 1-(4-Methoxycarbonylmethyloxyphenyl)-4-[(piperidin-4-yl)-N-benzylaminomethyl]piperidine dihydrochloride
Prepared from 4-[(1-tert-butyloxycarbonylpiperidin-4-yl)-N-benzylaminomethyl]-1-(4-methoxycarbonylmethyloxyphenyl)piperidine and ethereal hydrochloric acid.

reactant | 4-[(1-tert-butyloxycarbonylpiperidin-4-yl)-N-benzylaminomethyl]-1-(4-methoxycarbonylmethyloxyphenyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1CCN(CC1)C1=CC=C(C=C1)OCC(=O)OC)NCC1=CC=CC=C1 | C32H45N3O5
reactant | hydrochloric acid | Cl | ClH
product | 1-(4-Methoxycarbonylmethyloxyphenyl)-4-[(piperidin-4-yl)-N-benzylaminomethyl]piperidine dihydrochloride | Cl.Cl.COC(=O)COC1=CC=C(C=C1)N1CCC(CC1)C(NCC1=CC=CC=C1)C1CCNCC1 | InChI=1S/C27H37N3O3.2ClH/c1-32-26(31)20-33-25-9-7-24(8-10-25)30-17-13-23(14-18-30)27(22-11-15-28-16-12-22)29-19-21-5-3-2-4-6-21;;/h2-10,22-23,27-29H,11-20H2,1H3;2*1H
